US03954754
EXAMPLE 2: 3-Hydrazino-5,6,7,8,9,10-hexahydrocycloocta [c]pyridazine
11.7 g of 3-chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine and 60 cc of hydrazine hydrate are reacted in accordance with the process described in Example 1. The orange-coloured solution is completely concentrated, and the remaining crystalline crude title compound is washed with water. M.P. 145°-148° (decomp., from absolute ethanol).

reactant | 3-chloro-5,6,7,8,9,10-hexahydrocycloocta[c]pyridazine | 11.7 g | ClC1=CC2=C(N=N1)CCCCCC2 | C10H13ClN2
reactant | hydrazine hydrate | 60 cc | O.NN
product | 3-Hydrazino-5,6,7,8,9,10-hexahydrocycloocta [c]pyridazine | N(N)C1=CC2=C(N=N1)CCCCCC2 | C10H16N4
